US05874628
Preparation of 1-Carbomethoxy-2-(diphenylphosphino)naphthalene
To a solution of 66.6 g (0.195 mol) of 1-carbomethoxy-2-(trifluoromethylsulfonyloxy)naphthalene in 450 ml DMF were added, under a nitrogen atmosphere, 3.65 g NiCl2 (dppe) (6.9 mmol) and 35 ml ClPPh2 (0.195 mol). The reaction mixture was cooled in an ice-water bath and 15 g zinc (20% excess) was added portionwise at 8°-15° C. The mixture was then heated to 108° C. for 2 hours, cooled to 50° C., filtered through silica and washed with three 20 ml portions of methanol. The filtrate was concentrated under vacuum to half of its original volume and allowed to crystallize at 0°-4° C. The product was collected and washed with methanol. Further concentration of the filtrate caused additional material to crystallize. The total yield of the title compound was 66.3 g (92%).

reactant | 1-carbomethoxy-2-(trifluoromethylsulfonyloxy)naphthalene | 0.195 mol, 66.6 g | C(=O)(OC)C1=C(C=CC2=CC=CC=C12)OS(=O)(=O)C(F)(F)F | C13H9F3O5S
reactant | ClPPh2 | 0.195 mol, 35 ml | ClP(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10ClP
solvent | DMF | 450 ml | CN(C)C=O | C3H7NO
catalyst | NiCl2 | 6.9 mmol, 3.65 g | Cl[Ni]Cl
catalyst | zinc | 15 g | [Zn] | Zn
product | 1-Carbomethoxy-2-(diphenylphosphino)naphthalene | C(=O)(OC)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1 | C24H19O2P
